US07825265B2
(4-Benzyloxy-phenyl)-phenyl-methanone
NaH (60% in mineral oil, 1.2 g, 30 mmol) was added to an ice-cooled solution of (4-hydroxy-phenyl)-phenyl-methanone (5 g, 25.2 mmol) in DMF (25 mL). Stirred for 20 minutes at room temperature. Benzyl bromide (6.1 ml, 50 mmol) was added at 0° C. The reaction temperature was raised to room temperature after 1 h. Stirred 2 h. Water (20 mL) was added and aqueous phase was extracted dichloromethane (2×30 mL). The combined organic phase was concentrated and purified by flash chromatography (eluent: dichloromethane). 1H nmr revealed the product was pure. Yield: 7.0 g, 96%

reactant | NaH | 30 mmol, 1.2 g | [H-].[Na+]
reactant | (4-hydroxy-phenyl)-phenyl-methanone | 25.2 mmol, 5 g | OC1=CC=C(C=C1)C(=O)C1=CC=CC=C1 | C13H10O2
reactant | Benzyl bromide | 50 mmol, 6.1 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | Water | 20 mL | O | H2O
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | (4-Benzyloxy-phenyl)-phenyl-methanone | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(=O)C1=CC=CC=C1 | C20H16O2
